US06194447B1
5-Chloro-1,3-bis(4-chlorobenzyl)-2-iminobenzimidazoline (Compound 4a).
A mixture of 2-amino-5-chloro-benzimidazole (9.4 g, 56.1 mmol), 4-chlorobenzylchloride (9.93 g, 61.7 mmol), potassium carbonate (15.5 g, 112 mmol) and dimethyl formamide (150 ml) was stirred at 50° C. for 20 h. Water (150 ml) was added and the product was filtered off. The crude product was purified by chromatography using silica gel and a mixture of ethanol (5%) and dichloromethane as eluent. The product was isolated as the free base. Yield 0.37 g, 2%. M.p. 175-177° C.

reactant | 2-amino-5-chloro-benzimidazole | 56.1 mmol, 9.4 g | NC=1NC2=C(N1)C=CC(=C2)Cl | C7H6ClN3
reactant | 4-chlorobenzylchloride | 61.7 mmol, 9.93 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate | 112 mmol, 15.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
solvent | Water | 150 ml | O | H2O
product | 5-Chloro-1,3-bis(4-chlorobenzyl)-2-iminobenzimidazoline | ClC1=CC2=C(N(C(N2CC2=CC=C(C=C2)Cl)=N)CC2=CC=C(C=C2)Cl)C=C1 | C21H16Cl3N3
